US05506259
By working in a way similar to that described in example 17 and by using N-(2-ethoxycarbonyl-4-pyrrolyl)-3-acetylthio-2-(3-methoxybenzyl)-propanamide (0.98 g; 2.42 mmoles), prepared as described in example 24, a crude was obtained which, chromatographed on silica gel (eluent CH2Cl2 :CH3OH:CH3COOH=90:10:1) and collected with ligroin:ethyl acetate=1:1 afforded N-(2-carboxy-4-pyrrolyl)-3-mercapto-2-(3-methoxybenzyl)-propanamide (0.520 g; 64.2% yield) as white solid.

reactant | N-(2-ethoxycarbonyl-4-pyrrolyl)-3-acetylthio-2-(3-methoxybenzyl)-propanamide | 2.42 mmoles, 0.98 g | C(C)OC(=O)C=1NC=C(C1)NC(C(CSC(C)=O)CC1=CC(=CC=C1)OC)=O | C20H24N2O5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-carboxy-4-pyrrolyl)-3-mercapto-2-(3-methoxybenzyl)-propanamide | 0.520 g, 64.2% yield | C(=O)(O)C=1NC=C(C1)NC(C(CS)CC1=CC(=CC=C1)OC)=O | C16H18N2O4S
